US06080754
5-Hydroxy-2-n-propylpyridine
5-Amino-2-n-propylpyridine (70.3 g, 516 mmol) was dissolved in 1300 ml of 1M hydrochloric acid and sodium nitrite (35.6 g, 516 mmol) dissolved in 300 ml of water was added dropwise at 0° C. The reaction mixture was stirred at 0° C. for 1/2 hour, heated to 70° C. for 2 hours, and then stirred at room temperature the overnight. The reaction mixture was neutralised to pH=8 by adding solid sodium hydrogen carbonate, and the product was extracted into ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, and the solvent was evaporated. The crude product was purified by column chromatography over silica gel 60, using ethyl acetate:petroleum ether (1:1) as the eluent. This gave 65.7 g (92%) of 5-hydroxy-2-n-propylpyridine as an orange wax. 1H-NMR (CDCl3, 200 MHz) δ: 0.91 (t, 3H); 1.68 (sext, 2H); 2.71 (t, 2H); 7.09 (d, 1H); 7.25 (dd, 1H); 8.13 (d, 1H); 11.79 (s, 1H).

reactant | 5-Amino-2-n-propylpyridine | 516 mmol, 70.3 g | NC=1C=CC(=NC1)CCC | C8H12N2
reactant | sodium nitrite | 516 mmol, 35.6 g | N(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | hydrochloric acid | 1M, 1300 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 5-Hydroxy-2-n-propylpyridine | OC=1C=CC(=NC1)CCC | C8H11NO
